US08357688B2
500 mg of 5-fluoro-1H-pyrrolo[2,3-b]pyridine was added to 100 mL of methanol, followed by filtration. The filtrate was subjected to a reaction using a continuous hydrogenation reactor (H-Cube (registered trademark); manufactured by ThalesNano) under the condition of CatCart (registered trademark), Raney nickel (manufactured by ThalesNano), a flow rate of 0.5 ml/min, and a pressure of 50 bar (Full H2 mode), and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (normal hexane/ethyl acetate) to obtain 247 mg of 5-fluoro-2,3-dihydro-1H-pyrrolo[2,3-b]pyridine as a white solid.

reactant | 5-fluoro-1H-pyrrolo[2,3-b]pyridine | 500 mg | FC=1C=C2C(=NC1)NC=C2 | C7H5FN2
solvent | methanol | 100 mL | CO | CH4O
product | 5-fluoro-2,3-dihydro-1H-pyrrolo[2,3-b]pyridine | 247 mg | FC=1C=C2C(=NC1)NCC2 | C7H7FN2
